US08729078B2
In a 100 mL round-bottomed flask, 1-acetyl-6-bromo-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (250 mg, 947 μmol, Eq: 1.00), triethylamine (575 mg, 792 μl, 5.68 mmol, Eq: 6) and X-PHOS (181 mg, 379 μmol, Eq: 0.40) were combined with dioxane (25.0 ml) to give a colorless solution. [1,1′-bis(diphenylphosphino)ferrocene]dichloropaladium(II) (173 mg, 237 μmol, Eq: 0.25) and 2-fluorophenylboronic acid (265 mg, 1.89 mmol) were added and the resultant mixture was degassed for 5 minutes under Nitrogen. The reaction mixture was heated to 100° C. and microwaved for 1 hr. The reaction mixture was poured into 50 mL EtOAc and washed with H2O. The organic layers were dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 40 g, 20% to 30% EtOAc in hexanes) to give 6-(2-fluorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (220 mg, 98%).

reactant | 1-acetyl-6-bromo-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 947 μmol, 250 mg | C(C)(=O)N1C=C(C=2C1=NC(=CC2)Br)C#N | C10H6BrN3O
reactant | triethylamine | 5.68 mmol, 792 μl, 575 mg | C(C)N(CC)CC | C6H15N
reactant | X-PHOS | 379 μmol, 181 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 2-fluorophenylboronic acid | 1.89 mmol, 265 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
solvent | dioxane | 25.0 ml | O1CCOCC1 | C4H8O2
product | 6-(2-fluorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 220 mg, 98% | FC1=C(C=CC=C1)C1=CC=C2C(=N1)NC=C2C#N | C14H8FN3
